US08536160B2
7-(E)-Methoxyiminoandrostane-3,17-dione (II-au)
The title compound II-au was prepared in 55% yield from 3,3:17,17-bis(ethylendioxy)-7-(E)-methoxyiminoandrostane by the procedure described above for the preparation of 6-methyleneandrostane-3,17-dione (II-ac, Prepn. 13). The crude product was purified by flash chromatography (SiO2, n-hexane/EtOAc 6/4). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS: δ 3.72 (3H, s), 2.89 (1H, m), 2.63-0.93 (19H, m), 1.12 (3H, s), 0.82 (3H, s).

reactant | 17,17-bis(ethylendioxy)-7-(E)-methoxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1/C(/CC3CCCC[C@]3(C)[C@H]1CC4)=N/OC | C24H37NO5
reactant | 6-methyleneandrostane-3,17-dione | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H28O2
product | 7-(E)-Methoxyiminoandrostane-3,17-dione | 55% yield | CO\N=C/1\[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H29NO3
